US07585885B2
(S)-2-sec-Butylamino-6-(1,1-difluoroethyl)-isonicotinic acid methyl ester
Dissolve 2-chloro-6-(1,1-difluoroethyl)-isonicotinic acid methyl ester (200 mg, 0.85 mmol), palladium (II) acetate (20.0 mg, 0.09 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (56 mg, 0.09 mmol) and cesium carbonate (414 mg, 1.27 mmol) in toluene (3 mL) in a previously degassed sealed vessel. Flush the mixture with nitrogen gas. Add (S)-(+)-sec-butylamine (0.10 mL, 1.02 mmol) to the solution under nitrogen and heat the sealed mixture overnight at 100° C. Cool the reaction to room temperature. Dilute with diethyl ether and filter through a filtering agent. Concentrate the filtrate and purify (silica gel chromatography, eluting with 0:100 to 5:95 ethyl acetate:hexanes) to give the title compound as an oil (86%).

reactant | 2-chloro-6-(1,1-difluoroethyl)-isonicotinic acid methyl ester | 0.85 mmol, 200 mg | COC(C1=CC(=NC(=C1)C(C)(F)F)Cl)=O | C9H8ClF2NO2
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.09 mmol, 56 mg | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 1.27 mmol, 414 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (S)-(+)-sec-butylamine | 1.02 mmol, 0.10 mL | [C@H](C)(CC)N | C4H11N
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | palladium (II) acetate | 0.09 mmol, 20.0 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-2-sec-Butylamino-6-(1,1-difluoroethyl)-isonicotinic acid methyl ester | 86% | COC(C1=CC(=NC(=C1)C(C)(F)F)N[C@@H](C)CC)=O | C13H18F2N2O2
